US03951993
Upon heating a solution of 4.8 g of furan-2-aldehyde and 15.9 g of 3-amino-3-ethoxy-acrylic acid ethyl ester in 50 ml of alcohol for 8 hours, 2-amino-4-(2-furyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 110°C (isopropanol) is obtained.

reactant | furan-2-aldehyde | 4.8 g | O1C(=CC=C1)C=O | C5H4O2
reactant | 3-amino-3-ethoxy-acrylic acid ethyl ester | 15.9 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-amino-4-(2-furyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(N=C(C(C1C=1OC=CC1)C(=O)OCC)OCC)N | C17H22N2O6
